US06072075
A solution of N-Boc-N'-Cbz-guanidine (586 mg, 2.0 mmol) and triethyl amine (0.42 ml) in anhydrous dichloromethane (20 ml) is cooled to -78° C. under an atmosphere of argon. Triflic anhydride (0.42 ml, 2.5 mmol) is added dropwise at rate such that reaction temperature does not exceed -65° C. After the addition is completed, the mixture is allowed to warm to room temperature within 4 h. The solution is transferred to a separation fimnel, washed with 2M sodium bisulfate and water and dried with anhydrous sodium sulfate. After filtering and removal of the solvent under reduced pressure the crude product is purified by flash chromatography on silica gel (eluent: dichloromethane). N-Boc-N'-Cbz-N"-trifluoromethanesulfonyl-guanidine (699 mg, 82%) is obtained as a pale oil that crystallizes upon drying in vacuo: mp: 95-97° C.; 1H NMR (360 MHz, DMSO-d6) δ 11.49 (br s 1H), 11.17 (br s, 1H), 7.40 (m, 5H), 5.21 (s, 1H), 1.43 (s, 9H); FAB-MS m/e (relative intensity) 448 (23, M+Na+), 426 (44, M+H+), 329 (5), 370 (100), 348 (15), 326 (15).

reactant | N-Boc-N'-Cbz-guanidine | 2.0 mmol, 586 mg | C(=O)(OC(C)(C)C)NC(=N)NC(=O)OCC1=CC=CC=C1 | C14H19N3O4
reactant | triethyl amine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 2.5 mmol, 0.42 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-Boc-N'-Cbz-N"-trifluoromethanesulfonyl-guanidine | 699 mg, 82% | C(=O)(OC(C)(C)C)NC(=NS(=O)(=O)C(F)(F)F)NC(=O)OCC1=CC=CC=C1 | C15H18F3N3O6S
